* C:\Users\t0264096\Documents\Stage Marvyn Pannetier\LTspice\PUSH PULL PMOS NMOS WITH FINAL FILTER.asc
V1 Vcc 0 7
Rload sin N006 140
R1 N002 N005 10 tol=1 pwr=0.125
Lload N006 sin2 22m
L2 N009 N010 100µ Ipk=0.27 Rser=1.4 Rpar=60474.7 Cpar=0
C2 N008 0 0.22µ V=16 Irms=2.52 Rser=0.0526265 Lser=0 mfg="KEMET" pn="C0805C224K4RAC" type="X7R"
R2 N010 N008 10 tol=1 pwr=0.125
C3 sin N002 0.22µ V=16 Irms=12.5 Rser=0.00978387 Lser=0 mfg="KEMET" pn="C0805C155K4RAC" type="X7R"
R3 sin 0 3.3k tol=1 pwr=0.5
R4 0 sin2 3.3k tol=1 pwr=0.5
L3 N002 N001 100µ Ipk=0.27 Rser=1.4 Rpar=60474.7 Cpar=0
C4 0 N002 0.22µ V=16 Irms=8.02 Rser=0.00562267 Lser=0 mfg="KEMET" pn="C0805C335K4PAC" type="X5R"
V6 N003 N004 PWL file=PhaseA-H.txt
V7 N007 0 PWL file=PhaseA-L.txt
V2 N011 N012 PWL file=PhaseB-H.txt
V3 N013 0 PWL file=PhaseB-L.txt
XU1 Vcc N003 N004 DMN3032LFDBWQ
XU2 N004 N007 0 DMN3032LFDBWQ
XU3 Vcc N011 N012 DMN3032LFDBWQ
XU4 N012 N013 0 DMN3032LFDBWQ
C1 N010 0 0.22µ V=16 Irms=8.02 Rser=0.00562267 Lser=0 mfg="KEMET" pn="C0805C335K4PAC" type="X5R"
C5 0 N005 0.22µ V=16 Irms=2.52 Rser=0.0526265 Lser=0 mfg="KEMET" pn="C0805C224K4RAC" type="X7R"
C6 sin2 N010 1.5µ V=16 Irms=12.5 Rser=0.00978387 Lser=0 mfg="KEMET" pn="C0805C155K4RAC" type="X7R"
V4 N001 N009 AC 1
.ac dec 1000 0.1 1meg
.four 5k 20 -1 V(sin) V(sin2)
;tran 40m
* LPF
* HPF
* Load
.lib C:\Users\t0264096\Downloads\DMN3032LFDBWQ.spice.txt
.backanno
.end
